US07332499B2
(1R)-1-(4-Bromo-2-fluorophenyl)ethanaminium chloride (16.50 g, 64.83 mmol), 1-[(trifluoroacetyl)amino]cyclopropanecarboxylic acid (12.78 g, 64.83 mmol), EDC (12.43 g, 64.83 mmol), and HOAT (4.41 g, 32.41 mmol) were dissolved in dimethylformamide (100 mL). To this solution was added triethylamine (6.56 g, 64.83 mmol). After 6 hours, the reaction was diluted with water and extracted with ethyl acetate. The organic extract was washed with water, dried over sodium sulfate, filtered and concentrated under reduced pressure to yield a solid. This solid was purified by silica gel chromatography and eluted with 5% methanol/CH2Cl2 to yield N-[(1R)-1-(4-bromo-2-fluorophenyl)ethyl]-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide as a white solid. Low resolution mass spectrometry: (M+H+)=399.0.

reactant | (1R)-1-(4-Bromo-2-fluorophenyl)ethanaminium chloride | 64.83 mmol, 16.50 g | [Cl-].BrC1=CC(=C(C=C1)[C@@H](C)[NH3+])F
reactant | 1-[(trifluoroacetyl)amino]cyclopropanecarboxylic acid | 64.83 mmol, 12.78 g | FC(C(=O)NC1(CC1)C(=O)O)(F)F | C6H6F3NO3
reactant | EDC | 64.83 mmol, 12.43 g
reactant | HOAT | 32.41 mmol, 4.41 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 64.83 mmol, 6.56 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[(1R)-1-(4-bromo-2-fluorophenyl)ethyl]-1-[(trifluoroacetyl)amino]cyclopropanecarboxamide | BrC1=CC(=C(C=C1)[C@@H](C)NC(=O)C1(CC1)NC(C(F)(F)F)=O)F | C14H13BrF4N2O2
